US07429609B2
3-Azido-piperidin-2-one
To a solution of 2.0 g of 3-bromopiperidin-2-one in 30 ml of N,N-dimethylformamide was added 5.9 g of sodium azide, followed by stirring at 60° C. overnight. After cooling down to room temperature, water was added to the reaction mixture and then the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 890 mg of the title compound as a yellow oil.

reactant | 3-bromopiperidin-2-one | 2.0 g | BrC1C(NCCC1)=O | C5H8BrNO
reactant | sodium azide | 5.9 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Azido-piperidin-2-one | 890 mg | N(=[N+]=[N-])C1C(NCCC1)=O | C5H8N4O
